US07635701B2
2-(3-Chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclopropylamide
In a manner similar to Reference Example 1 (c) 2-(3-chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (35 mg) and cyclopropylamine (9 mg, ex Lancaster) afforded the title compound (32 mg).

reactant | 2-(3-chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid | 35 mg | ClC=1C=C(C=CC1)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C12H7ClF3N3O2
reactant | cyclopropylamine | 9 mg | C1(CC1)N | C3H7N
product | 2-(3-Chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclopropylamide | 32 mg | C1(CC1)NC(=O)C=1C(=NC(=NC1)NC1=CC(=CC=C1)Cl)C(F)(F)F | C15H12ClF3N4O
